US08791303B2
The 2,2-dimethyl-propionic acid 4-[1-(4-benzyloxy-cyclohexyl)-meth-(E)-ylidene]-3-oxo-2-(2,4,6-trimethyl-phenyl)-cyclopentyl ester (4.5 g, 9.0 mmol) is dissolved in ethyl acetate (40 ml), 1 g of 5% palladium on carbon is added and the reaction mixture is placed under hydrogen pressure (3 bars) for 3 hours. The reaction mixture is filtered and washed with ethyl acetate. The filtrate is absorbed onto silica gel and purified by flash chromatography to give a sticky solid. The solid was crystallised from hexane to give 2,2-dimethyl-propionic acid 4-(4-hydroxy-cyclohexylmethyl)-3-oxo-2-(2,4,6-trimethyl-phenyl)-cyclopentyl ester (1.37 g).

reactant | 2,2-dimethyl-propionic acid 4-[1-(4-benzyloxy-cyclohexyl)-meth-(E)-ylidene]-3-oxo-2-(2,4,6-trimethyl-phenyl)-cyclopentyl ester | 9.0 mmol, 4.5 g | C(C1=CC=CC=C1)OC1CCC(CC1)\C=C/1\C(C(C(C1)OC(C(C)(C)C)=O)C1=C(C=C(C=C1C)C)C)=O | C33H42O4
solvent | ethyl acetate | 40 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium on carbon | 1 g | [Pd] | Pd
product | 2,2-dimethyl-propionic acid 4-(4-hydroxy-cyclohexylmethyl)-3-oxo-2-(2,4,6-trimethyl-phenyl)-cyclopentyl ester | 1.37 g | OC1CCC(CC1)CC1C(C(C(C1)OC(C(C)(C)C)=O)C1=C(C=C(C=C1C)C)C)=O | C26H38O4
